US08981084B2
6-(1-(3-(5-(Trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoyl)azetidin-3-yl)nicotinonitrile
This compound was synthesized from 6-(azetidin-3-yl)nicotinonitrile TFA salt and 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid as described for example 37 step 3 (70 mg, yield 47%). 1H NMR (400 MHz, DMSO-d6) δ 9.06 (m, 1H), 8.30-8.29 (m, 2H), 8.21-8.19 (d, J=7.8 Hz, 1H), 7.96-7.94 (d, J=7.8 Hz, 1H), 7.74-7.70 (t, J=7.7 Hz, 1H), 7.63-7.61 (d, J=8.1 Hz, 1H), 4.76-4.72 (m, 1H), 4.52-4.46 (m, 2H), 4.25-4.18 (m, 2H). MS (ESI) m/z: Calculated for C19H12F3N5O2: 399.09. found: 400.2 (M+H)+

reactant | 6-(azetidin-3-yl)nicotinonitrile TFA salt | OC(=O)C(F)(F)F.N1CC(C1)C1=NC=C(C#N)C=C1
reactant | 3-(5-(trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoic acid | FC(C1=NC(=NO1)C=1C=C(C(=O)O)C=CC1)(F)F | C10H5F3N2O3
product | 6-(1-(3-(5-(Trifluoromethyl)-1,2,4-oxadiazol-3-yl)benzoyl)azetidin-3-yl)nicotinonitrile | yield 47% | FC(C1=NC(=NO1)C=1C=C(C(=O)N2CC(C2)C2=NC=C(C#N)C=C2)C=CC1)(F)F | C19H12F3N5O2
